US07442698B2
4-(4-(3-Dimethylaminopropyl)piperazino)aniline
A solution of 4-(4-(3-dimethylaminopropyl)piperazino)nitrobenzene (1.5 g) in methanol (50 mL) was hydrogenated at atmospheric pressure over Pd (5% on carbon) (0.3 g; 50% water content) for 4 h. The catalyst was filtered off and the solvent removed under reduced pressure to give the title compound as a brown solid

reactant | 4-(4-(3-dimethylaminopropyl)piperazino)nitrobenzene | 1.5 g | CN(CCCN1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-])C | C15H24N4O2
solvent | methanol | 50 mL | CO | CH4O
catalyst | Pd | 0.3 g | [Pd] | Pd
product | 4-(4-(3-Dimethylaminopropyl)piperazino)aniline | CN(CCCN1CCN(CC1)C1=CC=C(N)C=C1)C | C15H26N4
